US04126689
To a stirred mixture of 5.5 parts of 4-(methoxymethyl)-1-(1-methylethyl)-N-phenyl-4-piperidinamine in 56 parts of benzene is added dropwise a solution of 13.8 parts of benzeneacetyl chloride in 45 parts of benzene at 26°-32° C. Upon completion, stirring is continued first for one hour at 26°-32° C. and further for 3.60 hours at 38°-55° C. After cooling, the precipitated product is filtered off and converted into the hydrochloride salt in a mixture of 2-propanol and 2-propanone (5:1 by volume). The salt is filtered off and dissolved in absolute ethanol. After standing for 72 hours at room temperature, the precipitated product is filtered off, washed with a small amount of 2-propanone and dried, yielding 1.05 parts of N-[4-(methoxymethyl)-1-(1-methylethyl)-4-piperidinyl]-N-phenylbenzeneacetamide hydrochloride; mp. 249.1° C.

reactant | 4-(methoxymethyl)-1-(1-methylethyl)-N-phenyl-4-piperidinamine | COCC1(CCN(CC1)C(C)C)NC1=CC=CC=C1 | C16H26N2O
reactant | benzeneacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-[4-(methoxymethyl)-1-(1-methylethyl)-4-piperidinyl]-N-phenylbenzeneacetamide hydrochloride | Cl.COCC1(CCN(CC1)C(C)C)N(C(CC1=CC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C24H32N2O2.ClH/c1-20(2)25-16-14-24(15-17-25,19-28-3)26(22-12-8-5-9-13-22)23(27)18-21-10-6-4-7-11-21;/h4-13,20H,14-19H2,1-3H3;1H
